US05574042
To a solution of 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine (85 mg) in a mixture of ethanol (1 ml) and 1,4-dioxane (1 ml) was added in one portion N-bromosuccinimide (43 mg) at ambient temperature. After stirring for one hour at the same temperature, the mixture was filtered to give 3-bromo-8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine (85 mg) as a yellow solid.

reactant | 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 85 mg | ClC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C(=CC=C1[N+](=O)[O-])Cl | C15H11Cl2N3O3
reactant | N-bromosuccinimide | 43 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 3-bromo-8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 85 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)[N+](=O)[O-])Cl)C | C15H10BrCl2N3O3
